US09303000B2
Synthesis of (Z)-2-(2-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole (I-10)
In a 100-mL, 3N round-bottomed flask equipped with Thermometer pocket fitted with nitrogen inlet, condenser and a rubber septum, (Z)-3-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylohydrazide (0.7 g, 1.0 eq.), trimethyl orthoformate (0.3 mL, 1.1 eq.) and methane sulfonic acid (0.07 mL, 0.5 eq) was dissolved in THF (70 mL) resulting reaction mixture was stir at reflux temperature. The progress of the reaction was followed by TLC analysis on silica gel with 80% EtOAc-hexane as mobile phase which shows that starting material was consumed after 3 h. Reaction was quenched by water, solid material was observed that was filter on Buchner funnel to give crude material (0.490 g). The crude material was subjected to combiflash purification using ethyl acetate:hexane as mobile phase; Yield: 0.03 g (4.14%); (Z)-2-(2-(3-(2-chloro-6-methoxypyridine-4-yl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole: 1H NMR: (400 MHz, DMSO) δ=9.45 (s, 1H), 9.36 (s, 1H), 7.737-7.762 (d, J=10 Hz, 1H), 7.48 (s, 1H), 7.24 (s, 1H), 6.719-6.745 (d, J=10.4 Hz, 1H), 3.92 (s, 3H). LC-MS: Calculated for C12H9ClN6O2 (M+H)+ 304.69 Found: 304.81 Retention time: 3.354 min (100%).

reactant | (Z)-3-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylohydrazide | 0.7 g, 1.0 eq. | ClC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C(=O)NN)OC | C11H11ClN6O2
reactant | trimethyl orthoformate | 0.3 mL, 1.1 eq. | C(OC)(OC)OC | C4H10O3
reactant | methane sulfonic acid | 0.07 mL, 0.5 eq | CS(=O)(=O)O | CH4O3S
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | (Z)-2-(2-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole | 0.490 g | ClC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C=1OC=NN1)OC | C12H9ClN6O2
